US08017611B2
A solution of 2-chloro-N-methyl-acetamide (0.027 ml) in DMF (1 ml) was added to a stirred mixture of 3-(1,3-benzoxazol-2-yl)-5-[3-(methoxymethyl)-1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (100 mg) and potassium carbonate (68 mg) in DMF (5 ml) at 25° C. under argon. The resulting solution was heated at 75° C. overnight. The DMF was evaporated and the residue was purified by preparative HPLC using a Waters X-Bridge reverse-phase column (5 microns silica, 30 mm diameter, 150 mm length) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions were evaporated to afford 2-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methoxymethyl)pyrazol-1-yl]-1-piperidyl]-N-methyl-acetamide (53.0 mg) as a solid. NMR Spectrum: (DMSOd6) 1.98-2.06 (m, 2H), 2.09 (dd, 1H), 2.14 (dd, 1H), 2.22-2.31 (m, 2H), 2.64 (d, 3H), 2.86-2.93 (m, 2H), 2.95 (s, 2H), 3.41 (s, 3H), 4.11-4.19 (m, 1H), 4.41 (s, 2H), 7.41-7.48 (m, 2H), 7.66 (bs, 2H), 7.75 (q, 1H), 7.78 (dd, 1H), 7.84 (dd, 1H), 8.19 (s, 1H), 8.43 (d, 1H), 8.50 (d, 1H); Mass spectrum: M+H+ 476.

reactant | 2-chloro-N-methyl-acetamide | 0.027 ml | ClCC(=O)NC | C3H6ClNO
reactant | 3-(1,3-benzoxazol-2-yl)-5-[3-(methoxymethyl)-1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 100 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C(=NN(C2)C2CCNCC2)COC)N | C22H24N6O2
reactant | potassium carbonate | 68 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methoxymethyl)pyrazol-1-yl]-1-piperidyl]-N-methyl-acetamide | 53.0 mg | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)CC(=O)NC)COC)C=1OC2=C(N1)C=CC=C2 | C25H29N7O3
